US07279600B2
4′-{[Tert-butyl(dimethyl)silyl]oxy}-3-chloro-1,1′-biphenyl-4-carbaldehyde
The title compound was prepared by reacting trifluoro-methanesulfonic acid 3-chloro-4-formyl-phenyl ester (1.78 g, 6.18 mmol) with 4-tert-butyl-dimethylsilyoxyphenylboronic acid (2.03 g, 8.03 mmol) according to Method B to yield 0.92 g (43%) of white solid: mp 38-39° C.; 1H NMR (DMDO-d6); δ 0.23 (6H, s), 0.97 (9H, s), 6.98 (2H, d, J=8.79 Hz), 7.74 (2H, d, J=8.79 Hz), 7.81 (1H, d, J=7.81 Hz), 7.89 (1H, d, J=1.95 Hz), 7.91 (1H, d, J=7.81 Hz), 10.34 (1H, s); MS (ESI) m/z 231/233 (M−H)−(deprotected product ion).

reactant | trifluoro-methanesulfonic acid 3-chloro-4-formyl-phenyl ester | 6.18 mmol, 1.78 g | ClC=1C=C(C=CC1C=O)OS(=O)(=O)C(F)(F)F | C8H4ClF3O4S
reactant | 4-tert-butyl-dimethylsilyoxyphenylboronic acid | 8.03 mmol, 2.03 g | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)B(O)O | C12H21BO3Si
product | 4′-{[Tert-butyl(dimethyl)silyl]oxy}-3-chloro-1,1′-biphenyl-4-carbaldehyde | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=O)Cl | C19H23ClO2Si
